US09278968B2
To a mixture of 1.7 g of 2,2,2-trifluoro-N-(2-vinylbenzyl)acetamide, 1.31 g of 4-methylmorpholine 4-oxide, 43 ml of THF, and 17 ml of water was added 1.85 ml of a 2.5% aqueous tetraoxoosmium solution, followed by stirring at room temperature for 16 hours. To the reaction mixture was added a 10% aqueous sodium thiosulfate solution, followed by stirring at room temperature, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and washed with anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure to obtain 1.94 g of N-[2-(1,2-dihydroxyethyl)benzyl]-2,2,2-trifluoroacetamide.

reactant | 2,2,2-trifluoro-N-(2-vinylbenzyl)acetamide | 1.7 g | FC(C(=O)NCC1=C(C=CC=C1)C=C)(F)F | C11H10F3NO
reactant | 4-methylmorpholine 4-oxide | 1.31 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF | 43 ml | C1CCOC1 | C4H8O
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 17 ml | O | H2O
catalyst | tetraoxoosmium | O=[Os](=O)(=O)=O
product | N-[2-(1,2-dihydroxyethyl)benzyl]-2,2,2-trifluoroacetamide | 1.94 g | OC(CO)C1=C(CNC(C(F)(F)F)=O)C=CC=C1 | C11H12F3NO3
